US05635506
Preparation of 10-Chloroanthracene-1,9-Dicarboxylic Acid Anhydride
A suspension of 1.45 g (4.8 mmol) of 10-chloranthracene-1,9-dicarboxylic acid in 50 ml of acetic anhydride was heated under reflux for 4 hours and then cooled to room temperature. The yellow precipitate that formed was collected by filtration, washed with cold methanol and dried to give 0.83 g (61%) of the title compound, m.p. 269°-271° C.

reactant | 10-chloranthracene-1,9-dicarboxylic acid | 4.8 mmol, 1.45 g | ClC1=C2C=CC=C(C2=C(C2=CC=CC=C12)C(=O)O)C(=O)O | C16H9ClO4
solvent | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 10-Chloroanthracene-1,9-Dicarboxylic Acid Anhydride | 0.83 g, 61% | ClC1=C2C=CC=C3C2=C(C2=CC=CC=C12)C(=O)OC3=O | C16H7ClO3
